* source LAB9
X_U1         N00621 N01660 N01328 N01170 N01776 LM741
X_U2         N00621 N01656 N01328 N01170 N01854 LM741
X_U3         N00621 N01652 N01328 N01170 N01842 LM741
X_U6         N00621 N01640 N01328 N01170 N01800 LM741
X_U4         N00621 N01648 N01328 N01170 N01827 LM741
X_U5         N00621 N01644 N01328 N01170 N01812 LM741
X_U7         N00621 N01601 N01328 N01170 N01788 LM741
X_U8         0 N01776 N01854 N01842 N01827 N01812 N01800 N01788 0 N00499 N00503
+  N00507 M_UN0001 M_UN0002 $G_DPWR $G_DGND 74LS148 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V1         N00621 0  
+PULSE 0 7V 0 .2m 0 .2m .2m
V_V2         N01664 0 7V
V_V3         N01170 0 -10V
V_V4         N01328 0 10V
R_R1         N01660 N01664  1k TC=0,0 
R_R2         N01656 N01660  1k TC=0,0 
R_R3         N01652 N01656  1k TC=0,0 
R_R4         N01648 N01652  1k TC=0,0 
R_R5         N01644 N01648  1k TC=0,0 
R_R6         N01640 N01644  1k TC=0,0 
R_R7         N01601 N01640  1k TC=0,0 
R_R8         N01601 0  1k TC=0,0 
